* DIP switch 5
* jjt 20/6/2002: created
*
*             Switch connections:
*             sw1
*             |  |  sw2
*             |  |  |  |  sw3
*             |  |  |  |  |  |   sw4
*             |  |  |  |  |  |  |   |    sw5
*             |  |  |  |  |  |  |   |   |   |
*             |  |  |  |  |  |  |   |   |   |
.subckt dpsw5 1  2  4  5  7  8  10  11  13  14
+ PARAMS: STATE1=0 STATE2=0 STATE3=0 STATE4=0 STATE5=0 RON=1m ROFF=100E6
*
V1 3  0 {STATE1}
V2 6  0 {STATE2}
V3 9  0 {STATE3}
V4 12 0 {STATE4}
V5 15 0 {STATE5}
*
SDIP1 1  2  3  0 DIPMOD
SDIP2 4  5  6  0 DIPMOD
SDIP3 7  8  9  0 DIPMOD
SDIP4 10 11 12 0 DIPMOD
SDIP5 13 14 15 0 DIPMOD
*
.MODEL DIPMOD SW(VT=0.5 RON={RON} ROFF={ROFF})
.ends dpsw5